US04418077
To a suspension of 2,4-difluoro-3-aminobutanoic acid hydrochloride (2 g, 11.4 mmol) in anhydrous tetrahydrofuran (THF) (60 mL) at 0° C. is added a solution of 1 M diborane in THF (57 mL, 57 mmol). The reaction mixture is slowly allowed to warm up to room temperature and, after stirring for 12 hours, methanol (60 mL) is added. The solvent is evaporated in vacuo, the residue dissolved in 1 N hydrochloric acid (40 mL), and the aqueous layer extracted twice with ether. The aqueous phase is concentrated in vacuo and the residue washed several times with THF to afford 1,3-difluoro-4-hydroxy-2-aminobutane hydrochloride (1.8 g).

reactant | 2,4-difluoro-3-aminobutanoic acid hydrochloride | 11.4 mmol, 2 g | Cl.FC(C(=O)O)C(CF)N
reactant | diborane | 1 M | B#B | B2
reactant | methanol | 60 mL | CO | CH4O
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | THF | 57 mmol, 57 mL | O1CCCC1 | C4H8O
product | 1,3-difluoro-4-hydroxy-2-aminobutane hydrochloride | 1.8 g | Cl.FCC(C(CO)F)N | InChI=1S/C4H9F2NO.ClH/c5-1-4(7)3(6)2-8;/h3-4,8H,1-2,7H2;1H
